US07405210B2
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-(2-methoxyphenyl)ethyl]amide
The title compound was prepared as outlined in EXAMPLE 1 from 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 18) and 2-(2-methoxyphenyl)ethylamine. The product was purified by chromatography on silica gel eluting with methanol/dichloromethane (3:97) to give the title compound as a yellow solid. δH (CD3OD): 2.94 (2H, t), 3.59 (2H, t), 3.78 (3H, s), 6.84 (1H, t), 6.89 (1H, d), 6.97 (1H, s), 7.12–7.18 (2H, m), 7.60 (1H, s), 8.55 (1H, s); m/z (ES+)=330 [M+H]+.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | 2-(2-methoxyphenyl)ethylamine | COC1=C(C=CC=C1)CCN | C9H13NO
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-(2-methoxyphenyl)ethyl]amide | COC1=C(C=CC=C1)CCNC(=O)C1=CC=2C(=CN=C(C2)Cl)N1 | C17H16ClN3O2
